US08304546B2
3-{2-[5-Fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethylsulfanyl}propionic acid (2.26 g, 4.92 mmol) was dissolved in a mixed solvent of dichloromethane (100 ml) and methanol (20 ml), m-chloroperbenzoic acid (mCPBA, purity: 70%, 2.55 g, 10.33 mmol) was added thereto, and the mixture was then stirred at room temperature for 1 hour. The resulting reaction mixture was ice-cooled. An aqueous saturated sodium hydrogen sulfite solution (50 ml) was added to the reaction mixture, followed by extraction with dichloromethane. The thus-obtained organic layer was washed with water and then concentrated under reduced pressure. The residue was purified using silica gel column chromatography (dichloromethane:methanol=100:0→100:10). The purified product was concentrated under reduced pressure and subjected to recrystallization from ethyl acetate-n-hexane, giving a pale yellow powder of 3-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethanesulfonyl}propionic acid (2.2 g, yield: 91%).

reactant | 3-{2-[5-Fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethylsulfanyl}propionic acid | 4.92 mmol, 2.26 g | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CCSCCC(=O)O)C1=CC=C(C=C1)OC)=O | C24H26FNO5S
reactant | m-chloroperbenzoic acid | 10.33 mmol, 2.55 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen sulfite | 50 ml | S(=O)(O)[O-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | 3-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethanesulfonyl}propionic acid | 2.2 g, yield: 91% | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CCS(=O)(=O)CCC(=O)O)C1=CC=C(C=C1)OC)=O | C24H26FNO7S
